US04085117
A solution of methyl 6,7-dichloro-2,3-dihydro-5-(2-thenoyl)benzofuran-2-carboxylate (3.6 g., 0.01 mole) in carbon tetrachloride (100 ml.) containing a few crystals of benzoyl peroxide is treated with N-bromosuccinimide (1.8 g., 0.01 mole) then refluxed for one hour. The reaction mixture is cooled, filtered free of succinimide and the solvent distilled at reduced pressure to leave a yellow residual oil comprised of a mixture of methyl 2(and 3)-bromo-6,7-dichloro-2,3-dihydrobenzofuran-2-carboxylate which is dissolved in dimethylsulfoxide (25 ml.) treated with 1,5-diazobicyclo(4.3.0)-5-nonene (1.3 g., 0.01 mole), stirred at 25° C. for two hours in an inert atmosphere, diluted with water (100 ml.) and acidified with hydrochloric acid to give methyl 6,7-di chloro-5-(2-thenoyl)benzofuran-2-carboxylate wich melts at 184°-7° C. after recrystallization from acetonitrile-H2O.

reactant | methyl 6,7-dichloro-2,3-dihydro-5-(2-thenoyl)benzofuran-2-carboxylate | 0.01 mole, 3.6 g | ClC1=C(C2=C(CC(O2)C(=O)OC)C=C1C(C1=CC=CS1)=O)Cl | C15H10Cl2O4S
reactant | benzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
reactant | N-bromosuccinimide | 0.01 mole, 1.8 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | hydrochloric acid | Cl | ClH
solvent | carbon tetrachloride | 100 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dimethylsulfoxide | 25 ml | CS(=O)C | C2H6OS
solvent | water | 100 ml | O | H2O
product | methyl 6,7-di chloro-5-(2-thenoyl)benzofuran-2-carboxylate | ClC1=C(C2=C(C=C(O2)C(=O)OC)C=C1C(C1=CC=CS1)=O)Cl | C15H8Cl2O4S
